US09062028B2
A mixture of (2-methoxy-2-oxoethyl)triphenylphosphonium bromide (10.0 g, 24.08 mmol) in 100 mL DCM, 50 mL water and NaOH (10 N) (4.82 ml, 48.2 mmol) was vigorously shaken in a separatory funnel. The organic layer was separated and the aqueous phase was extracted with DCM. The combined organic layers were dried (MgSO4) and concentrated to give methyl 2-(triphenylphosphoranylidene)acetate (7.5 g, 93% yield) as a white solid. A solution of 3-chloro-2-methylbenzaldehyde (0.7 g, 4.53 mmol) and 2-(triphenylphosphoranylidene)acetate (1.817 g, 5.43 mmol) in MeOH (22.6 ml) was stirred at room temperature for 2 h. The mixture was concentrated and purified by flash chromatography (0-30% ethyl acetate:hexanes) to afford the title compound (0.23 g, 24% yield) as a clear colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.99 (d, J=15.9 Hz, 1H), 7.47-7.40 (m, 2H), 7.17-7.15 (m, 1H), 6.33 (d, J=15.9 Hz, 1H), 3.83 (s, 3H), 2.48 (s, 3H).

reactant | (2-methoxy-2-oxoethyl)triphenylphosphonium bromide | 24.08 mmol, 10.0 g | [Br-].COC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | NaOH | 48.2 mmol, 10 N, 4.82 ml | [OH-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | methyl 2-(triphenylphosphoranylidene)acetate | 7.5 g, 93% yield | C1(=CC=CC=C1)P(=CC(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
